US09314468B2
Preparation of N-methyl-N-((4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)methyl)-5,6,7,8-tetrahydroquinolin-8-amine (BP).
To a solution of N-methyl-5,6,7,8-tetrahydroquinolin-8-amine, 5, (0.39 g, 2.40 mmol) in 1,2-dichloroethane (4 mL) was added 4-methyl-5-phenyl-4H-1,2,4-triazole-3-carbaldehyde, 36, (0.41 g, 2.20 mmol), sodium triacetoxyborohydride (0.84 g, 3.90 mmol), and AcOH (1 drop). The reaction mixture was heated to 65° C. and stirred for 18 h. The reaction mixture was cooled to room temperature, poured into saturated aqueous NaHCO3 (10 mL) and extracted with ethyl acetate (2×10 mL). The combined organic phases were washed with brine then dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified via chromatography on basic alumina (0-5% methanol/dichloromethane) yielding BP: 1H NMR (400 MHz, CDCl3) δ 8.39, (d, J=4.8 Hz, 1H), 7.58-7.53 (m, 2H), 7.46-7.39, (m, 3H), 7.32, (d, J=8.4 Hz, 1H), 7.01, (dd, J=7.2, 4.4 Hz, 1H), 4.04-3.92, (m, 2H), 3.78, (d, J=14.0 Hz, 1H), 2.85-2.74, (m, 1H), 2.71-2.62 (m, 1H), 3.33, (s, 3H), 2.12-1.94 (m, 3H), 1.74-1.62 (m, 1H); ESI+ MS: m/z (rel intensity) 334 (100, M+H).

reactant | N-methyl-5,6,7,8-tetrahydroquinolin-8-amine | CNC1CCCC=2C=CC=NC12 | C10H14N2
reactant | 4-methyl-5-phenyl-4H-1,2,4-triazole-3-carbaldehyde | CN1C(=NN=C1C1=CC=CC=C1)C=O | C10H9N3O
reactant | sodium triacetoxyborohydride | 2.20 mmol, 0.41 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
product | N-methyl-N-((4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)methyl)-5,6,7,8-tetrahydroquinolin-8-amine | CN(C1CCCC=2C=CC=NC12)CC1=NN=C(N1C)C1=CC=CC=C1 | C20H23N5
